US07888366B2
2,6-Difluorobenzonitrile (250 mg; 1.8 mmol) and piperidine (145 mg; 1.7 mmol) were mixed in DMF (5 mL) for 3 hours at RT. The solvent is removed under vacuum, and the resulting oil is dried under vacuum at 30° C. overnight to yield 152 milligrams of 2-fluoro-6-(piperidin-1-yl)benzonitrile.

reactant | 2,6-Difluorobenzonitrile | 1.8 mmol, 250 mg | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | piperidine | 1.7 mmol, 145 mg | N1CCCCC1 | C5H11N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-6-(piperidin-1-yl)benzonitrile | 152 milligrams | FC1=C(C#N)C(=CC=C1)N1CCCCC1 | C12H13FN2
